US08648068B2
XIX.1. (S)-3-(5-fluoro-2-nitrophenoxy)tetrahydrofuran
Prepared analogously to example I.1 from (S)-(+)-3-Hydroxytetrahydrofuran and 2,4-difluornitrobenzol

reactant | (S)-(+)-3-Hydroxytetrahydrofuran | O[C@@H]1COCC1 | C4H8O2
reactant | 2,4-difluornitrobenzol | FC1=C(C=CC(=C1)F)[N+](=O)[O-] | C6H3F2NO2
product | (S)-3-(5-fluoro-2-nitrophenoxy)tetrahydrofuran | FC=1C=CC(=C(O[C@@H]2COCC2)C1)[N+](=O)[O-] | C10H10FNO4
